US07737295B2
To a solution of 2-iodo-5-(trifluoromethyl)benzonitrile (2.0 g, 6.7 mmol) and (5-isopropyl-2-methoxyphenyl)boronic acid (1.6 g, 8.4 mmol) in dimethyl ethylene glycol (30.4 mL) was added 2M Na2CO3 (6.8 mL), ethanol (9.6 mL), and water (10 mL). The solution was degassed with nitrogen for 2 minutes. Pd(PPh3)4 (774 mg, 0.67 mmol) was added and the solution was degassed with nitrogen again for 2 minutes. The solution was divided equally into two 40 mL microwave tubes. Each tube was degassed with nitrogen for 1 minute, sealed, and placed in a microwave reactor. The wattage was set for 200 W until the temperature reached 150° C. and then the temperature was held at 150° C. for ten minutes. The tubes were then cooled to room temperature, combined, poured into H2O (50 mL), and extracted with EtOAc (100 mL). The organic layer was washed with brine (50 mL), dried over Na2SO4, filtered, and concentrated. Purification by flash chromatography with 15% CH2Cl2/hexanes afforded 5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-carbonitrile as a light yellow oil. Rf=0.65 (25% EtOAc/hexanes). 1H NMR (CDCl3, 500 MHz) δ 7.97 (s, 1H), 7.85 (d, J=8.0 Hz, 1H), 7.63 (d, J=8.0 Hz, 1H), 7.31 (dd, J=8.5, 2.0 Hz, 1H), 7.12 (d, J=2.0 Hz, 1H), 6.97 (d, J=8.5 Hz, 1H), 3.82 (s, 3H), 2.93 (m, 1H), 1.27 (d, J=7.0 Hz, 6H).

reactant | 2-iodo-5-(trifluoromethyl)benzonitrile | 6.7 mmol, 2.0 g | IC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H3F3IN
reactant | (5-isopropyl-2-methoxyphenyl)boronic acid | 8.4 mmol, 1.6 g | C(C)(C)C=1C=CC(=C(C1)B(O)O)OC | C10H15BO3
reactant | Na2CO3 | 2M, 6.8 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethanol | 9.6 mL | C(C)O | C2H6O
solvent | dimethyl ethylene glycol | 30.4 mL | CC(C(C)O)O | C4H10O2
catalyst | Pd(PPh3)4 | 0.67 mmol, 774 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 10 mL | O | H2O
product | 5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-carbonitrile | C(C)(C)C=1C=CC(=C(C1)C=1C(=CC(=CC1)C(F)(F)F)C#N)OC | C18H16F3NO
